US08350044B2
Preparation of [2-(5-fluoropyridin-3-yl)-thiazol-5-yl]-1-methyl-3-(2-methylsulfanyl-ethyl)urea (Compound 72)
To a solution of [2-(5-fluoropyridin-3-yl)-thiazol-5-yl]-methyl-amine (0.4 g, 1.91 mmol) in DCE (5 mL) at 0° C. was added phosgene (1.3 mL, 2.5 mmol, 20 wt % solution in toluene). After 5 min, DMAP (0.5 g, 4.1 mmol) was added in one portion and the ice bath was removed. After another 5 min, the mixture was heated to reflux and stirred for 20 min. The reaction was cooled to ambient temperature and half of the solution was transferred to a vial and to this was added 2-(methylthio)ethanamine (0.183 g, 2.0 mmol) and DMAP (0.244 g, 2.0 mmol). The reaction was capped and heated at 80° C. overnight. The reaction was quenched upon addition of ethyl acetate and 0.1 N HCl. The layers were separated, and the organic layer was washed separately with saturated aqueous NaHCO3 and brine. The ethyl acetate layer was dried over MgSO4, filtered and concentrated under reduced pressure. The crude product was purified by silica gel column chromatography (0 to 100% ethyl acetate/hexanes) to give the desired product as an off-white solid (0.253 g, 81%): mp 117-119° C.; 1H NMR (300 MHz, CDCl3) δ 8.94 (br s, 1H), 8.50 (d, J=2.7 Hz, 1H), 7.99-7.94 (m, 1H), 7.54 (s, 1H), 5.37 (m, 1H), 3.53 (q, J=11.8, 5.5 Hz, 2H), 3.43 (s, 3H), 2.72 (app t, J=6.6 Hz, 2H), 2.13 (s, 3H); ESIMS m/z 327.1 (M+H); m/z 325.0 (M-1).

reactant | [2-(5-fluoropyridin-3-yl)-thiazol-5-yl]-methyl-amine | 1.91 mmol, 0.4 g | FC=1C=C(C=NC1)C=1SC(=CN1)NC | C9H8FN3S
reactant | phosgene | 2.5 mmol, 1.3 mL | C(=O)(Cl)Cl | CCl2O
reactant | 2-(methylthio)ethanamine | 2.0 mmol, 0.183 g | CSCCN | C3H9NS
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
catalyst | DMAP | 4.1 mmol, 0.5 g | CN(C)C=1C=CN=CC1 | C7H10N2
catalyst | DMAP | 2.0 mmol, 0.244 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | [2-(5-fluoropyridin-3-yl)-thiazol-5-yl]-1-methyl-3-(2-methylsulfanyl-ethyl)urea | 0.253 g, 81% | FC=1C=C(C=NC1)C=1SC(=CN1)N(C(=O)NCCSC)C | C13H15FN4OS2
